US09328116B2
Ethyl 5-iodo-1-(3-fluorophenyl)-1H-pyrazole-4-carboxylate (589 mg, 1.64 mmol) was dissolved in a mixture of tetrahydrofuran (5 mL), 1.5 N LiOH (1.6 mL) and methanol (1.5 mL) and the mixture was stirred overnight. Most of the tetrahydrofuran was removed by gently blowing a stream of nitrogen over the reaction mixture. Water and 1 N HCl (2.4 mL) was added and the mixture was sonicated well to precipitate the carboxylic acid. The carboxylic acid was filtered and rinsed with water. After drying under vacuum, 5-iodo-1-(3-fluorophenyl)-1H-pyrazole-4-carboxylic acid was obtained (488 mg, 1.47 mmol, 90% yield). This material was used for the next step without further purification.

reactant | Ethyl 5-iodo-1-(3-fluorophenyl)-1H-pyrazole-4-carboxylate | 1.64 mmol, 589 mg | IC1=C(C=NN1C1=CC(=CC=C1)F)C(=O)OCC | C12H10FIN2O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | LiOH | 1.5 N, 1.6 mL | [Li+].[OH-]
solvent | methanol | 1.5 mL | CO | CH4O
product | 5-iodo-1-(3-fluorophenyl)-1H-pyrazole-4-carboxylic acid | 90% yield | IC1=C(C=NN1C1=CC(=CC=C1)F)C(=O)O | C10H6FIN2O2
